US09340547B2
a) tert-Butyl 4,4,4-trifluoro-1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate
421 mg (1.64 mmol) of 2-(tert-butoxycarbonylamino)-4,4,4-trifluorobutanoic acid were suspended in a mixture of N,N-dimethylformamide (5 mL) and dichloromethane (5 mL) and HATU (624 mg, 1.64 mmol) and DIEA (286 μl, 1.64 mmol) were added. The resulting suspension was stirred at room temperature for 2 hours and then 1-amino-N-phenyl-1H-pyrrole-2-carboxamide (300 mg, 1.49 mmol) was added. The resulting solution was stirred at room temperature overnight and the dichloromethane was removed in vacuum. 25 mL of water were added to the remaining solution and, after vigorous stirring, the solid that formed was filtered and washed with water. 582 mg (89% yield) of the title compound were obtained as a white solid.

reactant | 2-(tert-butoxycarbonylamino)-4,4,4-trifluorobutanoic acid | 1.64 mmol, 421 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC(F)(F)F | C9H14F3NO4
reactant | HATU | 1.64 mmol, 624 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.64 mmol, 286 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 1.49 mmol, 300 mg | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-Butyl 4,4,4-trifluoro-1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)butan-2-ylcarbamate | 582 mg, 89% yield | FC(CC(C(NN1C(=CC=C1)C(NC1=CC=CC=C1)=O)=O)NC(OC(C)(C)C)=O)(F)F | C20H23F3N4O4
